US08168654B2
(R)-1-[2-(4-Hydroxy-benzoylamino)-ethyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide
To a solution of (R)-1-[2-(4-Benzyloxy-benzoylamino)-ethyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide (0.075 g, 0.11 mmol) in DMF (1 ml) under an argon atmosphere is added 10% Pd on carbon (40 mg) and the resulting solution hydrogenated for 3 hours. The catalyst is then removed by filtration and concentration in vacuo yields the title compound.

reactant | (R)-1-[2-(4-Benzyloxy-benzoylamino)-ethyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide | 0.11 mmol, 0.075 g | [Br-].C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC[N+]23C[C@@H](C(CC2)CC3)OC(C(C3=CC=CC=C3)(C3=CC=CC=C3)O)=O)C=C1
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | Pd on carbon | 40 mg | [Pd] | Pd
product | (R)-1-[2-(4-Hydroxy-benzoylamino)-ethyl]-3-(2-hydroxy-2,2-diphenyl-acetoxy)-1-azonia-bicyclo[2.2.2]octane bromide | [Br-].OC1=CC=C(C(=O)NCC[N+]23C[C@@H](C(CC2)CC3)OC(C(C3=CC=CC=C3)(C3=CC=CC=C3)O)=O)C=C1 | InChI=1S/C30H32N2O5.BrH/c33-26-13-11-23(12-14-26)28(34)31-17-20-32-18-15-22(16-19-32)27(21-32)37-29(35)30(36,24-7-3-1-4-8-24)25-9-5-2-6-10-25;/h1-14,22,27,36H,15-21H2,(H-,31,33,34);1H/t22?,27-,32?;/m0./s1
